US07405299B2
A. Preparation of 6-Iodo-imidazo[1,2-a]pyridine
Reflux a solution of 2-amino-5-iodo-pyridine (Tetrahedron 2002, 58, 2885-2890; 1.5 g, 6.82 mmol) and 50% aqueous chloroacetaldehyde (1.56 mL, 12.3 mmol) in acetonitrile (150 mL) for 14 h. Cool, concentrate, and dissolve the residue in 1:1 saturated aqueous sodium bicarbonate/dichloromethane. Extract the aqueous layer with dichloromethane, combine the organic layers, and concentrate. Flash chromatography using appropriate ethyl acetate/methanol mixtures gives 1.1 g (66%) of the subtitled compound as a light green solid. TOF MS ES+ exact mass calculated for C7H51N2 (p+1): m/z=244.9576; Found: 244.9564. 1H NMR (400 MHz, DMSO-d6) δ 8.9 (s, 1H), 7.86 (s, 1H), 7.52 (s, 1H), 7.40 (d, J=9 Hz, 1H), 7.36 (d, J=9.2, H).

reactant | 2-amino-5-iodo-pyridine | 6.82 mmol, 1.5 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | chloroacetaldehyde | 12.3 mmol, 1.56 mL | ClCC=O | C2H3ClO
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 6-Iodo-imidazo[1,2-a]pyridine | 1.1 g, 66% | IC=1C=CC=2N(C1)C=CN2 | C7H5IN2
